US04780477
To a suspension of 4.97 g of (E)-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone in 370 ml of methanol was added 15.0 ml of a 1N-hydrochloric acid to make a solution. The solution was concentrated under reduced pressure, and diethyl ether was added to the residue. The precipitates were collected by filtration and recrystallized from ethanol to obtain 5.37 g of (E)-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone hydrochloride having a melting point of 255°-25° C. (decomposition).

reactant | (E)-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone | 4.97 g | C(C)(C)N(CCN1C(=O)/C(/C2=CC=CC=C12)=N/NC(=O)N)C(C)C | C17H25N5O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 370 ml | CO | CH4O
product | (E)-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone hydrochloride | 5.37 g | Cl.C(C)(C)N(CCN1C(=O)/C(/C2=CC=CC=C12)=N/NC(=O)N)C(C)C | InChI=1S/C17H25N5O2.ClH/c1-11(2)21(12(3)4)9-10-22-14-8-6-5-7-13(14)15(16(22)23)19-20-17(18)24;/h5-8,11-12H,9-10H2,1-4H3,(H3,18,20,24);1H/b19-15+;
